US06693123B2
A mixture of 4-methyl-2-phenylbenzoic acid methyl ester (2.26 g, 10 mmol), prepared as in Example 227B, N-bromosuccinimide (1.87 g, 10.5 mmol) and 2,2′-azobisisobutyronitrile (25 mg) in carbon tetrachloride (40 mL) was stirred at reflux for 7 hours. The reaction mixture was poured into ethyl acetate and extracted with water (2×), aqueous sodium hydrogen sulfite and brine, dried, filtered, and concentrated in vacuo. Chromatography on silica gel (10% ethyl acetate-hexane) gave 4-bromomethyl-2-phenylbenzoic acid methyl ester (2.57 g, 84%).

reactant | 4-methyl-2-phenylbenzoic acid methyl ester | 10 mmol, 2.26 g | COC(C1=C(C=C(C=C1)C)C1=CC=CC=C1)=O | C15H14O2
reactant | N-bromosuccinimide | 10.5 mmol, 1.87 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | carbon tetrachloride | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2′-azobisisobutyronitrile | 25 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 4-bromomethyl-2-phenylbenzoic acid methyl ester | 2.57 g, 84% | COC(C1=C(C=C(C=C1)CBr)C1=CC=CC=C1)=O | C15H13BrO2
